US07417047B2
A solution of 4-(3-bromo-phenylethynyl)-1H-pyrrole-2-carbonitrile (2.85 g, 10.52 mmol) in acetone was treated with a 45° C. solution of magnesium sulfate (1.90 g, 15.78 mmol) and sodium bicarbonate (0.53 g, 6.31 mmol) in water, immediately treated with KMnO4 (3.74 g, 23.67 mmol), stirred for 15 minutes (TLC (silica gel, 25% ethyl acetate/hexane) indicated complete clean conversion), diluted with EtOAc and washed with water until the washings were colorless. The organic phase was dried (MgSO4), filtered and evaporated. The resultant residue was crystallized to purity from warm ethyl acetate/hexane to afford 4-[2-(3-bromophenyl)-2-oxo-acetyl]-1H-pyrrole-2-carbonitrile as a yellow crystalline solid, 2.68 g, 84% yield.

reactant | 4-(3-bromo-phenylethynyl)-1H-pyrrole-2-carbonitrile | 10.52 mmol, 2.85 g | BrC=1C=C(C=CC1)C#CC=1C=C(NC1)C#N | C13H7BrN2
reactant | magnesium sulfate | 15.78 mmol, 1.90 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium bicarbonate | 6.31 mmol, 0.53 g | C([O-])(O)=O.[Na+]
reactant | KMnO4 | 23.67 mmol, 3.74 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-[2-(3-bromophenyl)-2-oxo-acetyl]-1H-pyrrole-2-carbonitrile | 84% yield | BrC=1C=C(C=CC1)C(C(=O)C=1C=C(NC1)C#N)=O | C13H7BrN2O2
